US06372754B1
(a) 1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene
4-(Trifluoromethoxy)phenol (15 g), 2-bromoethanol (7.76 g) and triphenylphosphine (22.1 g) were dissolved in tetrahydrofuran (250 ml). Diethyl azodicarboxylate (13.3 ml) was added dropwise to the stirred mixture and stirring was continued for 12 hours. The mixture was concentrated in vacuo to give a yellow oil. The oil was diluted with hexane to precipitate the triphenylphosphine oxide by-product which was removed by filtration. The filtrate was concentrated and purified on silica using 10% ether in hexane as eluant to give the product (18.35 g). 1H NMR (250 MHz, CDCl3) δ 3.63 (2H, t, J 6.1 Hz), 4.30 (2H, t, J 6.2 Hz), 6.84-6.95 (2H, m), 7.12-7.17 (2H, m).

reactant | 4-(Trifluoromethoxy)phenol | 15 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 2-bromoethanol | 7.76 g | BrCCO | C2H5BrO
reactant | triphenylphosphine | 22.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 13.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(2-Bromoethoxy)-4-(trifluoromethoxy)benzene | 18.35 g | BrCCOC1=CC=C(C=C1)OC(F)(F)F | C9H8BrF3O2
